US08293909B2
To a suspension containing 2-(4-fluorophenyl)-5-methoxy-N-methylbenzo[b]thiophene-3-carboxamide (0.58 g, 1.8 mmol) and DCE (18 mL), was added boron tribromide-methylsulfide complex (2.3 g, 7.4 mmol) in one portion. The mixture was stirred in a closed vessel at 83° C. for 9 h under a nitrogen atmosphere, cooled to room temperature and quenched with aqueous HCl (20 mL, 1.0 N). The mixture was concentrated to remove all solvent and water was added (50 mL). The aqueous mixture was extracted with ethyl acetate (3×20 mL), dried over MgSO4, filtered and concentrated to afford 2-(4-fluorophenyl)-5-hydroxy-N-methylbenzo[b]thiophene-3-carboxamide as a tan solid which was used without further purification. 1H NMR (500 MHz, DMSO-D6) δ ppm 9.56 (s, 1H), 8.31 (d, J=4.58 Hz, 1H), 7.78 (d, J=8.55 Hz, 1H), 7.55-7.63 (m, 2H), 7.29-7.37 (m, 2H), 7.08 (d, J=2.14 Hz, 1H), 6.91 (dd, J=8.85, 2.44 Hz, 1H), 2.73 (d, J=4.58 Hz, 3H). LCMS: retention time: 2.137 min. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna, 10 micron, C18, 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 4 min, a hold time of 1 min, and an analysis time of 5 min where solvent A was 5% CH3CN/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% CH3CN/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode. m/z 302 (MH+).

reactant | 2-(4-fluorophenyl)-5-methoxy-N-methylbenzo[b]thiophene-3-carboxamide | 1.8 mmol, 0.58 g | FC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC(=C2)OC)C(=O)NC | C17H14FNO2S
reactant | boron tribromide-methylsulfide complex | 7.4 mmol, 2.3 g | [B-]([S+](C)C)(Br)(Br)Br | C2H6BBr3S
solvent | DCE | 18 mL | ClCCCl | C2H4Cl2
product | 2-(4-fluorophenyl)-5-hydroxy-N-methylbenzo[b]thiophene-3-carboxamide | FC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC(=C2)O)C(=O)NC | C16H12FNO2S
